US08492401B2
A solution of tert-butyl 2-diazo-3-oxobutanoate (13.1 g, 71.7 mmol) in 1,2-dichloroethane was added over 12 h to a refluxing solution of benzamide (6.16 g, 50.8 mmol) and dirhodium tetraacetate (786 mg, 1.78 mmol) in 1,2-dichloroethane (75 ml). The mixture was evaporated in vacuo and purified by flash chromatography to give tert-butyl 2-benzamido-3-oxobutanoate as a white solid (6.97 g, 51% yield).

reactant | tert-butyl 2-diazo-3-oxobutanoate | 71.7 mmol, 13.1 g | [N+](=[N-])=C(C(=O)OC(C)(C)C)C(C)=O | C8H12N2O3
reactant | benzamide | 50.8 mmol, 6.16 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 75 ml | ClCCCl | C2H4Cl2
catalyst | dirhodium tetraacetate | 1.78 mmol, 786 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Rh+3].[Rh+3]
product | tert-butyl 2-benzamido-3-oxobutanoate | 6.97 g, 51% yield | C(C1=CC=CC=C1)(=O)NC(C(=O)OC(C)(C)C)C(C)=O | C15H19NO4
